US08039469B2
Preparation of 1-(4-(4,6-dimorpholino-1,3,5-triazin-2-yl)phenyl)-3-(4-(4-morpholinopiperidine-1-carbonyl)phenyl)urea
To the stirred solution of 4-(3-(4-(4,6-dimorpholino-1,3,5-triazin-2-yl)phenyl)ureido)benzoic acid (50 mg; 0.099 mmol), Hunig's base (103 μL, 0.594 mmol), HBTU (188 mg, 0.495 mmol) in 1 mL of NMP was reacted according to example 68 with 4-(piperidin-4-yl)morpholine (67 mg, 0.396 mmol). Evaporated the solvent and purified by HPLC to give the product (40.1 mg, 62% yield); MS (ESI) m/z=658.7

reactant | 4-(3-(4-(4,6-dimorpholino-1,3,5-triazin-2-yl)phenyl)ureido)benzoic acid | 0.099 mmol, 50 mg | O1CCN(CC1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(C=C1)NC(NC1=CC=C(C(=O)O)C=C1)=O | C25H27N7O5
reactant | Hunig's base | 0.594 mmol, 103 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HBTU | 0.495 mmol, 188 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-(piperidin-4-yl)morpholine | 0.396 mmol, 67 mg | N1CCC(CC1)N1CCOCC1 | C9H18N2O
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | 1-(4-(4,6-dimorpholino-1,3,5-triazin-2-yl)phenyl)-3-(4-(4-morpholinopiperidine-1-carbonyl)phenyl)urea | 40.1 mg, 62% yield | O1CCN(CC1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C(=O)N1CCC(CC1)N1CCOCC1 | C34H43N9O5
